US07674809B2
27e) 2-phenyl-6-nitro-3,4-dihydroquinazoline
N-Benzoyl-2-amino-5-nitrobenzylamine (33 g, 0.12 mol) and phosphoryl chloride (150 ml) are refluxed for 3 hours. The mixture is concentrated and water is added, followed by addition of aqueous ammonia (pH>10). The product is filtered off and recrystallized from water, and then from 2/1 isopropyl ether/hexane. Yield: 27.6 g (89%); IR (KBr): 3387, 3198, 1599, 1512, 1341 cm−1; 1H-NMR (d6-DMSO) 7.95 (m, 4H); 7.30 (m, 4H); 7.01 (m, 1H); 4.71 (s, 2H).

reactant | N-Benzoyl-2-amino-5-nitrobenzylamine | 0.12 mol, 33 g | C(C1=CC=CC=C1)(=O)NCC1=C(C=CC(=C1)[N+](=O)[O-])N | C14H13N3O3
solvent | phosphoryl chloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-phenyl-6-nitro-3,4-dihydroquinazoline | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2CN1)[N+](=O)[O-] | C14H11N3O2
